US07977345B2
To a round bottom flask equipped with a magnetic stir bar was added 4-chloro-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid ethyl ester (0.13 g, 0.58 mmol, 1.0 eq.) and DMF (3 ml). The mixture was cooled to 0° C. followed by the addition of NaH (0.028 g, 0.70 mmol, 1.2 eq) with stirring. After stirring for 10 minutes SEM-CL (0.106 g, 0.64 mmol, 1.1 eq) was added and the reaction was allowed to warm to room temperature with stirring for 1 hour. The reaction was diluted with ethyl acetate (50 ml), washed (2×) water, (1×) NaHCO3, (2×) 5% LiCl, (1×) brine, and dried over sodium sulfate, and concentrated in vacuo to give 4-chloro-7-(2-trimethylsilanyl-ethoxymethyl)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid ethyl ester as a cream solid (0.17 g, 84%). MS (ESI) for C15H22ClN3O3Si: 356 (MH+).

reactant | 4-chloro-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 0.58 mmol, 0.13 g, 1.0 eq. | C(C)OC(=O)C1=CC2=C(N=CN=C2Cl)N1 | C9H8ClN3O2
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
reactant | NaH | 0.70 mmol, 0.028 g, 1.2 eq | [H-].[Na+]
reactant | SEM-CL | 0.64 mmol, 0.106 g, 1.1 eq | C[Si](C)(C)CCOCCl | C6H15ClOSi
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 4-chloro-7-(2-trimethylsilanyl-ethoxymethyl)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 0.17 g, 84% | C(C)OC(=O)C1=CC2=C(N=CN=C2Cl)N1COCC[Si](C)(C)C | C15H22ClN3O3Si
